US04057573
Analogously to Example 3, 12 g of 5-benzoyl-6-hydroxyindane-1-carboxylic acid and ethanol containing sulphuric acid give 5-benzoyl-6-hydroxy-indane-1-carboxylic acid ethyl ester in the form of yellow platelets of melting point 83-4° C.

reactant | 5-benzoyl-6-hydroxyindane-1-carboxylic acid | 12 g | C(C1=CC=CC=C1)(=O)C=1C=C2CCC(C2=CC1O)C(=O)O | C17H14O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O | C19H18O4
